US08232294B2
Step 8) tert-Butyl 3-fluoro-4-(7-(3-hydroxypropoxy)-6-methoxyquinolin-4-yloxy)phenylcarbamate
To a solution of tert-butyl 3-fluoro-4-(7-hydroxy-6-methoxyquinolin-4-yloxy)phenylcarbamate (400 mg, 1 mmol) in DMF (4 mL) was added K2CO3 (276 mg, 2 mmol) and 3-bromopropan-1-ol (154 mg, 1.1 mmol). The reaction was stirred at rt overnight. The solvent was removed, and the residue was partitioned between water (10 mL) and CH2Cl2 (20 mL). The organic layer was separated, dried over Na2SO4 and concentrated in vacuo. The residue was purified by a silica gel column chromatography (EtOAC to 10% methanol in EtOAC) to give the title compound as a light yellow solid (300 mg, 65%).

reactant | tert-butyl 3-fluoro-4-(7-hydroxy-6-methoxyquinolin-4-yloxy)phenylcarbamate | 1 mmol, 400 mg | FC=1C=C(C=CC1OC1=CC=NC2=CC(=C(C=C12)OC)O)NC(OC(C)(C)C)=O | C21H21FN2O5
reactant | K2CO3 | 2 mmol, 276 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | 3-bromopropan-1-ol | 1.1 mmol, 154 mg | BrCCCO | C3H7BrO
solvent | DMF | 4 mL | CN(C)C=O | C3H7NO
product | tert-Butyl 3-fluoro-4-(7-(3-hydroxypropoxy)-6-methoxyquinolin-4-yloxy)phenylcarbamate | 300 mg, 65% | FC=1C=C(C=CC1OC1=CC=NC2=CC(=C(C=C12)OC)OCCCO)NC(OC(C)(C)C)=O | C24H27FN2O6
